US04931443
To 9.7 g of 4-hydroxyimino-4-[4-(4-(4-(3-methylphenyl)piperazin-1-yl)butyl)phenyl]butyric acid and 5 g of Raney nickel, 300 ml of methanol is added, and stirred for 9 hours in 70 atm hydrogen gas at 120° C. in an autoclave. After the completion of the reaction, the catalyst is removed by filtration, and the solvent is distilled off under reduced pressure. The resulting oily substance is purified by silica gel column chromatography and recrystallized from ethyl acetate to give 6.4 g of 5-[4-(4-(4-(3-methylphenyl)piperazin-1-yl)butyl)phenyl]pyrrolidin-2-one having a melting point of 114° to 116° C.

reactant | 4-hydroxyimino-4-[4-(4-(4-(3-methylphenyl)piperazin-1-yl)butyl)phenyl]butyric acid | 9.7 g | ON=C(CCC(=O)O)C1=CC=C(C=C1)CCCCN1CCN(CC1)C1=CC(=CC=C1)C | C25H33N3O3
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 5 g | [Ni] | Ni
solvent | methanol | 300 ml | CO | CH4O
product | 5-[4-(4-(4-(3-methylphenyl)piperazin-1-yl)butyl)phenyl]pyrrolidin-2-one | 6.4 g | CC=1C=C(C=CC1)N1CCN(CC1)CCCCC1=CC=C(C=C1)C1CCC(N1)=O | C25H33N3O
